US06821967B2
9-[4-(4-benzothiazol-2-yl-cis-2,6-dimethyl-piperazin-1-yl)-butyl]-9H-fluorene-9-carboxylic acid-4-fluoro-benzylamide
Prepared analogously to Example 1 from 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-4-fluoro-benzylamide and 2-(cis-3,5-dimethyl-piperazin-1-yl)-benzothiazole.

reactant | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-4-fluoro-benzylamide | FC1=CC=C(CNC(=O)C2(C3=CC=CC=C3C=3C=CC=CC23)CCCCBr)C=C1 | C25H23BrFNO
reactant | 2-(cis-3,5-dimethyl-piperazin-1-yl)-benzothiazole | C[C@@H]1CN(C[C@@H](N1)C)C=1SC2=C(N1)C=CC=C2 | C13H17N3S
product | 9-[4-(4-benzothiazol-2-yl-cis-2,6-dimethyl-piperazin-1-yl)-butyl]-9H-fluorene-9-carboxylic acid-4-fluoro-benzylamide | FC1=CC=C(CNC(=O)C2(C3=CC=CC=C3C=3C=CC=CC23)CCCCN2[C@H](CN(C[C@H]2C)C=2SC3=C(N2)C=CC=C3)C)C=C1 | C38H39FN4OS
